US05280032
In 30 ml of acetone was dissolved 3.3 g of 2-[2-(4-methylpiperazin-1-yl)ethoxy]-1-(1-naphthyl)-1-(tetrahydropyran-2-yloxy)ethane. To the solution were added 3.46 g of p-toluenesulfonic acid monohydrate and 7 ml of water at room temperature. The resulting mixture was stirred at the same temperature for 30 minutes and further at 40° C. for 1 hour. The reaction mixture was added to a mixture of 60 ml of chloroform and 60 ml of ice water. The mixture was adjusted to pH 11 with a 10% aqueous sodium hydroxide solution. The organic layer was separated. The aqueous layer was extracted with 20 ml of chloroform. The extract was combined with the previously separated organic layer. The combined organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was dissolved in 40 ml of acetone. Hydrogen chloride gas was blown into the solution with ice cooling. The resulting solution was stirred at room temperature for 30 minutes. Thereto was added 40 ml of diethyl ether. The resulting mixture was stirred at the same temperature for 30 minutes. The resulting crystals were collected by filtration, washed with acetone, and dried to obtain 2.35 g of 2-[2-(4-methylpiperazin-1-yl)ethoxy]-1-(1-naphthyl)ethanol dihydrochloride (compound No. 259).

reactant | 2-[2-(4-methylpiperazin-1-yl)ethoxy]-1-(1-naphthyl)-1-(tetrahydropyran-2-yloxy)ethane | 3.3 g | CN1CCN(CC1)CCOCC(OC1OCCCC1)C1=CC=CC2=CC=CC=C12 | C24H34N2O3
reactant | p-toluenesulfonic acid monohydrate | 3.46 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Hydrogen chloride | Cl | ClH
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 7 ml | O | H2O
product | 2-[2-(4-methylpiperazin-1-yl)ethoxy]-1-(1-naphthyl)ethanol dihydrochloride | 2.35 g | Cl.Cl.CN1CCN(CC1)CCOCC(O)C1=CC=CC2=CC=CC=C12 | InChI=1S/C19H26N2O2.2ClH/c1-20-9-11-21(12-10-20)13-14-23-15-19(22)18-8-4-6-16-5-2-3-7-17(16)18;;/h2-8,19,22H,9-15H2,1H3;2*1H
